* C:\Users\jcasa\Documents\projects\ArdaraClone\spice\summer.asc
V3 VIN 0 SINE(0 5 100 0 0 0 0) AC 10 0
V4 V+ 0 15
V5 V- 0 -15
R4 N002 N003 10k
R10 VIN N001 20k
R12 vout N001 10k
R1 N003 V- 16k
R2 V+ N003 12.75k
XU1 N002 N001 V+ V- vout LT1352
;dc V3 -10 10 .1
.tran 100m
;.op
.lib LTC.lib
.backanno
.end
